US07368578B2
To a solution of tetraethyl methylenediphosphonate (215 mg) in N,N-dimethylformamide (5 mL) was added sodium hydride (60% in oil, 38 mg), and the mixture was stirred at room temperature for 20 min. A solution of N-(4-formyl-1-phenyl-1H-pyrazol-3-yl)-3-methoxy-4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]benzamide (433 mg) in N,N-dimethylformamide (5 mL) was added to the reaction mixture, and the mixture was stirred at room temperature for 2 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with distilled water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give diethyl (E)-2-[3-({3-methoxy-4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]benzoyl}amino)-1-phenyl-1H-pyrazol-4-yl]ethenylphosphonate as colorless amorphous form (205 mg, yield 38%) from a fraction eluted with ethyl acetate-hexane (1:1 to 1:0, v/v).

reactant | tetraethyl methylenediphosphonate | 215 mg | C(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C9H22O6P2
reactant | sodium hydride | 38 mg | [H-].[Na+]
reactant | N-(4-formyl-1-phenyl-1H-pyrazol-3-yl)-3-methoxy-4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]benzamide | 433 mg | C(=O)C=1C(=NN(C1)C1=CC=CC=C1)NC(C1=CC(=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)OC)=O | C29H24N4O5
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | diethyl (E)-2-[3-({3-methoxy-4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]benzoyl}amino)-1-phenyl-1H-pyrazol-4-yl]ethenylphosphonate | yield 38% | COC=1C=C(C(=O)NC2=NN(C=C2/C=C/P(OCC)(OCC)=O)C2=CC=CC=C2)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C34H35N4O7P
